US04665206
5,6-Dimethoxy-benzo[b]thiophene-2-carbonitrile (9.0 g) was dissolved in dichloromethane (135 ml) and the solution was stirred and cooled to -70° C. and treated at a rapid dropwise rate with a cold solution of boron tribromide (19.5 ml) in dichloromethane (60 ml). The resultant suspension was stirred at room temperature for 1 h. then poured into ice-cold water (1000 ml). The light coloured solid was filtered, dried, dissolved in acetone:hexane (1:1) then eluted through coarse silica (0.2-0.5 mm, Merck, 50 g) in acetone:hexane (1:1). The appropriate fractions were combined, evaporated to dryness and crystallised from acetone/n-hexane to give 5,6-dihydroxy-benzo[b]thiophene-2-carbonitrile (7.5 g), m.p. 229°-230° C.

reactant | 5,6-Dimethoxy-benzo[b]thiophene-2-carbonitrile | 9.0 g | COC1=CC2=C(SC(=C2)C#N)C=C1OC | C11H9NO2S
reactant | boron tribromide | 19.5 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 135 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 5,6-dihydroxy-benzo[b]thiophene-2-carbonitrile | 7.5 g | OC1=CC2=C(SC(=C2)C#N)C=C1O | C9H5NO2S
